US04595678
6,7,8-Triacetoxy-1-bromomethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane (as described in Example 1 of the Japanese Patent Application No. 144309/1981, pp. 37) (4.1 g) is dissolved in dimethylformamide (15 ml), and sodium azide (1.0 g) is added to the solution, followed by stirring under heating on a bath of the temperature of 130° to 140° C. for 7 hours. The reaction mixture is concentrated under reduced pressure and further freed of the dimethylformamide azeotropically with toluene, under reduced pressure. 20% Aqueous methanol (100 ml) is added to the residue, which is then allowed to stand overnight in a refrigerator. The resultant crystals are recovered by filtration, washed with 20% aqueous methanol cooled with ice, and dried to produce 6,7,8-triacetoxy-1-azidomethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane (2.7 g).

reactant | 6,7,8-Triacetoxy-1-bromomethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane | C(C)(=O)OC1C2NC(OC(C(C1OC(C)=O)OC(C)=O)(C2)CBr)=O | C14H18BrNO8
reactant | sodium azide | 1.0 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6,7,8-triacetoxy-1-azidomethyl-3-oxo-2-oxa-4-azabicyclo[3.3.1]nonane | 2.7 g | C(C)(=O)OC1C2NC(OC(C(C1OC(C)=O)OC(C)=O)(C2)CN=[N+]=[N-])=O | C14H18N4O8
